US07531532B2
2-Amino-4-(2-chloro-4-nitrophenoxy)pyridine
2-Amino-4-chloropyridine (2.57 g) was dissolved in dimethylsulfoxide (30 ml), and then 2-chloro-4-nitrophenol (6.94 g) and N,N-diisopropylethylamine (14 ml) were added thereto, followed by stirring at 160° C. for 6 days. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a 1 N aqueous solution of sodium hydroxide and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2, then ethyl acetate) to provide the titled compound (574 mg, 11%) as brown powder.

reactant | 2-Amino-4-chloropyridine | 2.57 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | 2-chloro-4-nitrophenol | 6.94 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | N,N-diisopropylethylamine | 14 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-Amino-4-(2-chloro-4-nitrophenoxy)pyridine | 574 mg, 11% | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C11H8ClN3O3
